US04271160
Into a solution of 12.3 g of 2-[α-(2-nitro-phenoxy)-benzyl]-4-methyl-morpholin-5-one in 350 ml of anhydrous THF there was slowly added dropwise 77 ml of a molar solution of BH3 in THF. After the addition, the mixture was refluxed for 6 hours. The excess of BH3 was eliminated with MeOH at room temperature, and dropwise addition was then made to the reaction mixture of 50 ml of 23% HCl and stirring carried out for 1 hour at 60° C. The whole was concentrated to a small volume and the residue diluted with water, thereafter alkalinizing with NaOH and extracting with CH2Cl2. After normal processing and crystallization from isopropyl ether, the 2-[α-(2-nitro-phenoxy)-benzyl]-3-methyl-morpholine, m.p. 78°-81° C. (8.1 g; 68%) was obtained.

reactant | 2-[α-(2-nitro-phenoxy)-benzyl]-4-methyl-morpholin-5-one | 12.3 g | [N+](=O)([O-])C1=C(OC(C2=CC=CC=C2)C2CN(C(CO2)=O)C)C=CC=C1 | C18H18N2O5
reactant | MeOH | CO | CH4O
reactant | HCl | 50 ml | Cl | ClH
solvent | THF | 350 ml | C1CCOC1 | C4H8O
product | 2-[α-(2-nitro-phenoxy)-benzyl]-3-methyl-morpholine | [N+](=O)([O-])C1=C(OC(C2=CC=CC=C2)C2C(NCCO2)C)C=CC=C1 | C18H20N2O4
